US04933355
Benzyl 5-[1-(2-aminothiazol-4-yl)-1-ethoxycarbonylmethylene]rhodanine-3-acetate
A mixture comprising 2 g of 5-[1-(2-aminothiazol-4-yl)-1-ethoxycarbonylmethylene]rhodanine-3-acetic acid monohydrate, 3 g of benzyl bromide, 1.1 g of triethylamine and 10 ml of hexamethylphosphoric triamide was stirred at room temperature for 16 hours. The reaction mixture was acidified with dilute hydrochloric acid and then extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and the solvent was evaporated off under reduced pressure. The residue was purified by silica gel column chromatography using as eluent a 8:2:1 by volume mixture of hexane, ethyl acetate and acetic acid, giving the desired compound as yellow crystals.

reactant | 5-[1-(2-aminothiazol-4-yl)-1-ethoxycarbonylmethylene]rhodanine-3-acetic acid monohydrate | 2 g | O.NC=1SC=C(N1)C(C(=O)OCC)=C1C(N(C(S1)=S)CC(=O)O)=O
reactant | benzyl bromide | 3 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | triethylamine | 1.1 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | hexamethylphosphoric triamide | 10 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | Benzyl 5-[1-(2-aminothiazol-4-yl)-1-ethoxycarbonylmethylene]rhodanine-3-acetate | NC=1SC=C(N1)C(C(=O)OCC)=C1C(N(C(S1)=S)CC(=O)OCC1=CC=CC=C1)=O | C19H17N3O5S3
